US08202873B2
3′-(2-Fluoro-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazine dihydrochloride
Add 4M HCl in dioxane (8 mL) to a solution of 3′-(2-fluorophenyl)-2,3,5,6-tetrahydro-[1,2′]-bipyrazinyl-4-carboxylic acid t-butyl ester (1.48 g, 4.13 mmol) in 1,4-dioxane (8 mL), and stir the mixture at room temperature for 3 hr. then at 40° C. for 16 hr. Allow the reaction to cool, filter off the precipitated solid, wash with 1,4-dioxane and dry under reduced pressure at 60° C., to give the title preparation as a yellow solid (960 mg, 70%). MS (ES) m/z=259 [M+H].

reactant | HCl | 4M | Cl | ClH
reactant | 3′-(2-fluorophenyl)-2,3,5,6-tetrahydro-[1,2′]-bipyrazinyl-4-carboxylic acid t-butyl ester | 4.13 mmol, 1.48 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=CN=C1C1=C(C=CC=C1)F | C19H23FN4O2
solvent | dioxane | 8 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 8 mL | O1CCOCC1 | C4H8O2
product | 3′-(2-Fluoro-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazine dihydrochloride | Cl.Cl.FC1=C(C=CC=C1)C=1C(=NC=CN1)N1CCNCC1 | InChI=1S/C14H15FN4.2ClH/c15-12-4-2-1-3-11(12)13-14(18-6-5-17-13)19-9-7-16-8-10-19;;/h1-6,16H,7-10H2;2*1H
